US07915424B2
5-Trimethylsilanylethynyl-nicotinonitrile
Combine 5-bromonicotinonitrile (10.0 g, 53.0 mmol), bis(triphenylphosphine)palladium (II) dichloride (1.86 g, 2.65 mmol), copper (I) iodide (1.04 g, 5.46 mmol) and triethylamine (50 mL, 359 mmol) in a sealed tube under nitrogen and treat with (trimethylsilyl)acetylene (8.00 mL, 56.75 mmol). Stir the resultant black reaction mixture at 70° C. for 1.7 h and cool to room temperature. Dilute the reaction mixture with ethyl acetate and wash with a saturated aqueous solution of sodium chloride. Dry (sodium sulfate), filter and concentrate. Dissolve the residue in dichloromethane and filter through a pad of diatomaceous earth/silica gel. Wash with 80:20 dichloromethane:ethyl acetate. Concentrate the filtrate to give 11.6 g of the title compound as a brownish-tan solid. This material contains minor impurities, which do not have an adverse effect on subsequent chemistry (see PREPARATION 4). The crude material is purified by silica gel chromatography, eluting with 95:5 to 85:15 hexanes:ethyl acetate to give the title compound.

reactant | 5-bromonicotinonitrile | 53.0 mmol, 10.0 g | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | triethylamine | 359 mmol, 50 mL | C(C)N(CC)CC | C6H15N
reactant | (trimethylsilyl)acetylene | 56.75 mmol, 8.00 mL | C[Si](C)(C)C#C | C5H10Si
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium | 2.65 mmol, 1.86 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 5.46 mmol, 1.04 g | [Cu]I
product | 5-Trimethylsilanylethynyl-nicotinonitrile | 11.6 g | C[Si](C)(C)C#CC=1C=NC=C(C#N)C1 | C11H12N2Si
